US06235731B1
2) Synthesis of N-[1-(3-(2-fluorophenoxy)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 244 mg (0.52 mM) of N-[1-(3-(2-fluorophenoxy)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (4 ml) was added 1.0 ml (4.0 mM) of 4N-HCl/methanol. The solvent was distilled off under reduced pressure and the residue was purified by recrystallization to provide the title compound.

reactant | N-[1-(3-(2-fluorophenoxy)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.52 mM, 244 mg | FC1=C(OCCCN2CCC(CC2)CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC=C1 | C25H27FN4O2S
reactant | HCl methanol | Cl.CO
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[1-(3-(2-fluorophenoxy)propan-1-yl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.FC1=C(OCCCN2CCC(CC2)CNC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=CC=C1 | InChI=1S/C25H27FN4O2S.2ClH/c26-20-5-1-2-6-21(20)32-14-4-11-29-12-9-18(10-13-29)16-28-25(31)22-15-19-17-27-23-7-3-8-24(33-22)30(19)23;;/h1-3,5-8,15,17-18H,4,9-14,16H2,(H,28,31);2*1H
